US07514400B2
3β-Amino-5-cholestene.
A solution of 3β-azido-5-cholestene (6.18 g, 15.0 mmol) in anhydrous diethyl ether (100 mL) was cooled to 4° C. by ice-water bath. To this solution, LiAlH4 (855 mg, 22.5mmol) was added in four equal portions. The reaction was maintained at 4° C. for 30 min, warmed to 22° C. and stirred for 2 h. When the starting material disappeared by TLC analysis (hexanes), the reaction was cooled to 4° C. and carefully quenched by slow dropwise addition of cold deionized water (10 mL). The resulting solution was poured into ice water (90 mL), the organic layer was separated, and the aqueous layer was extracted with ethyl acetate (50 mL×2). The organic layers was combined, washed with saturated aqueous sodium chloride (100 mL), dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was redissolved in CHCl3 (30 mL) and insoluble salts were removed by filtration. Concentration of the filtrate afforded the product (5.57 g, 96.3%) as white solid, mp 92-94° C.; 1H NMR (300 MHz, CDCl3) δ 5.27 (s, 1H), 2.60-2.52 (m, 1H), 2.10-0.81 (m, 40H), 0.64 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 141.7, 120.5, 56.7, 56.1, 51.9, 50.2, 43.3, 42.2,39.7, 39.4, 38.1, 36.5, 36.1, 35.7, 32.6, 31.8 (×2), 28.2, 27.9, 24.2, 23.8, 22.7,22.5, 20.9, 19.4, 18.6, 11.8; IR (film) ν 3354, 3260,3154, 2936, 2896, 2849, 1464, 1437, 1381 cm−1;

reactant | 3β-azido-5-cholestene | 15.0 mmol, 6.18 g | N(=[N+]=[N-])[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H45N3
reactant | LiAlH4 | 22.5mmol, 855 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3β-Amino-5-cholestene | 5.57 g, 96.3% | N[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H47N
